*** Title: "D:\L_1\LR_1\LR_SSHMT_!\LR_2_SH\simulation\tb_sum\netlistLR_2_SH.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Wed Sep 24 13:44:21 2025                     
*******************************************************************

simulator lang=local


parameters 

V0 vdd! gnd vsource type=dc dc=3.5 
V1 A gnd vsource type=pulse val0=3.5 val1=0 period=4e-008 rise=1e-009 fall=1e-009 width=2e-008 
V2 B gnd vsource type=pulse val0=3.5 val1=0 delay=0 period=8e-008 rise=1e-009 fall=1e-009 width=4e-008 
V3 C_in gnd vsource type=pulse val0=3.5 val1=0 delay=0 period=1.8e-007 rise=1e-009 fall=1e-009 width=8e-008 
C0 c_out gnd capacitor c=1e-013 
C1 out_sum gnd capacitor c=1e-013 
I0 A C_in out_sum c_out B Sum_poln 

subckt Sum_poln A C_in S C_out B 
I0 A B n1_3 XOR2 
I1 n1_3 C_in S XOR2 
I2 n3_3 C_in n1_3 AND2 
I3 n4_3 A B AND2 
I4 C_out n3_3 n4_3 OR2 
ends

subckt XOR2 A B Out 
M2 n5_4 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n7_4 B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M5 n7_4 B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M6 n9_4 n5_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 n9_4 n5_4 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M12 Out n11_1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M8 n5_4 B n11_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M9 n5_4 n7_4 n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M13 Out n11_1 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 n9_4 n7_4 n11_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 n9_4 B n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 n5_4 A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt AND2 out A B 
I2 out n16_1 inv 
I0 B A n16_1 NAND2 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt NAND2 B A Out 
M1 n2_4 B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out A n2_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends

subckt OR2 Out A B 
I2 Out n7_1 inv 
I0 A B n7_1 NOR2 
ends

subckt NOR2 A B Out 
M0 Out A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B n4_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 n4_1 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends
